US07700637B2
A mixture of the title D compound, 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-4-propoxy-benzoic acid allyl ester (620 mg, 1.16 mmol), tetrakis-(triphenyl-phosphine)palladium(0) (27 mg, 0.02 equivalents), and phenyl silane (252 mg, 2.33 mmol) in DCM (15 mL) is stirred at RT for 4 h. The mixture is concentrated under vacuum, and the residue is chromatographed on silica gel using a solvent mixture consisting of 0.5% formic acid and 20% ethyl acetate in hexane as the eluent to afford 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-4-propoxy-benzoic acid as a white foam: m.p. 50-52° C.

reactant | 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-4-propoxy-benzoic acid allyl ester | 1.16 mmol, 620 mg | C(C=C)OC(C1=C(C=C(C=C1OCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OCCC)C)=O | C33H35NO6
reactant | phenyl silane | 2.33 mmol, 252 mg | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-6-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyloxy}-4-propoxy-benzoic acid | CC1=C(C(=O)O)C(=CC(=C1)OCCC)OCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C30H31NO6
